US06995263B2
Within 10 min 31.6 ml (37.9 mmol) of a 1.2 M DIBALH solution in toluene were added dropwise to a dry ice cooled (−50° C.) solution of 4.25 g (12.64 mmol) 4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine-5-carboxylic acid ethyl ester in 50 ml of THF. The reaction mixture was stirred 30 min at −50° C. and after letting rise the temperature to RT, for 1 h at RT. The reaction mixture was taken up in ether and washed with 1N HCl and water. The solvent was removed under reduced pressure to give 3.72 g of pure [4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-methanol.

reactant | DIBALH | 1.2 M | CC(C)C[AlH]CC(C)C
reactant | dry ice | C(=O)=O | CO2
reactant | 4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine-5-carboxylic acid ethyl ester | 12.64 mmol, 4.25 g | C(C)OC(=O)C=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1 | C17H15F3N2O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | [4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-methanol | 3.72 g | C1(CC1)C1=NC(=NC=C1CO)C1=CC=C(C=C1)C(F)(F)F | C15H13F3N2O
